US07012077B2
A solution of 420 mg (1.3 mmol) of trans-3-{4-[(5-Bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-yn-1-ol in 10 ml CH2Cl2 was treated at 0° C. with 0.11 ml (1.43 mmol) methanesulfonylchloride, 0.16 ml (1.95 mmol) pyridine and 159 mg (1.3 mmol) DMAP. The reaction was stirred for 3.5 h at room temperature, water (2 ml) was added and stirred for 5 min. After extraction with aqueous saturated NaHCO3/Et2O(3×), the organic phase was washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated to yield 540 mg (quantitative) of trans-Methanesulfonic acid 3-{4-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-ynyl ester, MS: 402 (MH+, 1Br).

reactant | trans-3-{4-[(5-Bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-yn-1-ol | 1.3 mmol, 420 mg | BrC=1C=NC(=NC1)N([C@@H]1CC[C@H](CC1)C#CCO)C | C14H18BrN3O
reactant | methanesulfonylchloride | 1.43 mmol, 0.11 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 1.95 mmol, 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 2 ml | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.3 mmol, 159 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | trans-Methanesulfonic acid 3-{4-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-ynyl ester | 540 mg | BrC=1C=NC(=NC1)N([C@@H]1CC[C@H](CC1)C#CCOS(=O)(=O)C)C | C15H20BrN3O3S
